US07229617B2
(a) (S)-2-(Biphenyl-3-ylamino)-3-(3,4,5-trimethoxy-phenyl)-propionic acid (for Step B)
The title compound is prepared by heating a suspension of 3-bromo-biphenyl (1.47 mL, 8.54 mMol, Aldrich 25,538-6), (S)-2-amino-3-(3,4,5-trimethoxy-phenyl)-propionic acid (3,4,5-OCH3-phe-OH) (3.27 g, 12.81 mMol), K2CO3 (1.18 g, 8.54 mMol) and CuI (163 mg, 0.854 mMol) in DMF abs. (10.6 mL) for 24 h at 90° C., under an argon atmosphere. The resulting mixture is allowed to cool to rt, then concentrated in vacuo and purified by MPLC (CH3CN/H2O/TFA) to afford the title compound.

reactant | 3-bromo-biphenyl | 8.54 mMol, 1.47 mL | BrC=1C=C(C=CC1)C1=CC=CC=C1 | C12H9Br
reactant | (S)-2-amino-3-(3,4,5-trimethoxy-phenyl)-propionic acid | 12.81 mMol, 3.27 g | N[C@H](C(=O)O)CC1=CC(=C(C(=C1)OC)OC)OC | C12H17NO5
reactant | K2CO3 | 8.54 mMol, 1.18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | CuI | 0.854 mMol, 163 mg | [Cu]I
product | (S)-2-(Biphenyl-3-ylamino)-3-(3,4,5-trimethoxy-phenyl)-propionic acid | C1(=CC(=CC=C1)N[C@H](C(=O)O)CC1=CC(=C(C(=C1)OC)OC)OC)C1=CC=CC=C1 | C24H25NO5
